* C:\users\thatiannecarvalho\My Documents\Faculdade\9ºSemestre\MI - PDS\pbl3\circuit.asc
V1 N003 0 SINE(2.5 2.5 1) AC 1
V2 N001 0 PULSE(0 5 0 0 0 0.00015 0.00195) AC 1
XX1 N001 N003 8 7 N004 stage
XX2 N001 N004 6 5 N005 stage
XX3 N001 N005 4 3 N002 stage
XX5 N002 2 1 flash2bits
XX4 8 7 6 5 4 3 2 1 Vout dac10b
C1 0 Vout2 1µ
R1 Vout2 Vout 500

* block symbol definitions
.subckt stage Clock Vin A B Vout
V1 N004 0 SINE(2.5 2.5 1) AC 1
V4 N001 0 PULSE(0 5 0 0 0 0.00015 0.00195) AC 1
XX1 Clock Vin N002 sh
XX3 Vin A B flash2bits
XX4 A B N003 dac
XX2 N002 N003 Vout subtractor
.ends stage

.subckt flash2bits Vin A B
XX1 Vin N001 N002 N003 4bitscomparator
XX2 N001 N002 N003 A B 3dec2bits
.ends flash2bits

.subckt dac10b A B C D E F G H Vout
R1 N002 A 500
R2 N002 B 1k
R3 N003 N002 1.27k
V5 N001 0 12
XU3 0 N002 N001 N005 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 Vout N004 1k
XU1 0 N004 N001 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N004 N003 1k
V4 N005 0 -12
R6 N002 C 2k
R7 N002 D 4k
R8 N002 E 8k
R9 N002 F 16k
R10 N002 G 32k
R11 N002 H 64k
.ends dac10b

.subckt sh Clock Vin Vout
C1 N002 0 10p
XU1 Vin N003 N004 N001 N003 LT1001
XU2 N002 Vout N004 N001 Vout LT1001
V2 N001 0 -12
V3 N004 0 12
M1 N003 Clock N002 N002 NMOS
.ends sh

.subckt dac A B Vout
R1 N002 A 1k
R2 N002 B 2k
R3 N003 N002 3.3k
V5 N001 0 12
XU3 0 N002 N001 N005 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 Vout N004 1k
XU1 0 N004 N001 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N004 N003 1k
V4 N005 0 -12
.model SW SW()
.ends dac

.subckt subtractor V+ V- Vout
R4 N008 0 1k
R3 N008 V+ 500
R1 N002 V- 500
R2 N003 N002 1k
V1 N001 0 12
XU1 N008 N002 N001 N009 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 N009 0 -12
XU2 N007 N005 N006 N010 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N005 N004 1k
V4 N006 0 12
V5 N010 0 -12
R6 Vout N005 1k
R7 N007 N003 1k
V3 N004 0 -2.5
R8 0 N007 1k
.ends subtractor

.subckt 4bitscomparator Vin 1 2 3
R4 N001 N003 1k
V5 N001 0 5
R5 N003 N006 1k
R6 N006 N008 1k
V7 N004 0 5
R2 N008 0 1k
A1 0 0 0 0 N002 0 3 0 XOR
A2 0 0 0 N002 N005 0 2 0 XOR
A3 0 0 0 N005 N007 0 1 0 XOR
V1 N009 0 SINE(2.5 2.5 100)
XU1 Vin N003 N004 0 N002 LT1017
XU2 Vin N006 N004 0 N005 LT1017
XU3 Vin N008 N004 0 N007 LT1017
.ends 4bitscomparator

.subckt 3dec2bits 1 2 3 A B
A1 0 0 3 2 0 0 A 0 OR
A2 0 3 1 0 0 0 B 0 OR
.ends 3dec2bits

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\thatiannecarvalho\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5s
.lib LTC.lib
.lib LTC1.lib
.lib UniversalOpamps2.sub
.backanno
.end
